US08278324B2
[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]acetic acid hydrochloride
A solution of ethyl[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]acetate formic acid salt (Preparation 5, 11.6 mg, 0.026 mmol) and LiOH (0.3 mg) in THF-MeOH-water (300 μl, 300 μl, 200 μL) was irradiated to 100° C. for 3 min in the microwave. 2M aqueous HCl (1 mL) was added, then the solution extracted with DCM (2×2 mL). The combined organics were concentrated in vacuo to give the title compound as a white solid (10.1 mg, 85%). 1H NMR (400 MHz, d4-MeOH) δ 8.48 (1H, d), 8.44 (1H, dd), 8.21 (1H, d), 7.44 (1H, t), 7.47 (2H, apparent d), 4.97 (1H, sept), 4.70 (2H, s), 4.32 (2H, s), 3.67 (2H, t), 3.57 (2H, t), 1.47 (6H, d); m/z (ES) 419 [M+H]+.

reactant | ethyl[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]acetate formic acid | 0.026 mmol, 11.6 mg | C(=O)O.C(C)OC(CN1CC2=CC=CC(=C2CC1)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C)C)C#N)=O
reactant | LiOH | 0.3 mg | [Li+].[OH-]
reactant | HCl | 2M, 1 mL | Cl | ClH
solvent | THF MeOH water | 300 μl | C1CCOC1.CO.O
product | [5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]acetic acid hydrochloride | 10.1 mg, 85% | Cl.C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCN(CC2=CC=C1)CC(=O)O | InChI=1S/C23H22N4O4.ClH/c1-14(2)30-20-7-6-15(10-17(20)11-24)23-25-22(26-31-23)19-5-3-4-16-12-27(13-21(28)29)9-8-18(16)19;/h3-7,10,14H,8-9,12-13H2,1-2H3,(H,28,29);1H
